US08084448B2
A. 2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-benzonitrile
Zinc dust (240 mg, 3.69 mmol) is placed in a flask and heated under vacuum to remove traces of water. DMF (10 mL) is then added under nitrogen atmosphere. Dibromoethane (0.03 mL) is added and the mixture heated until effervescence occurs. The mixture is allowed to cool to RT and chlorotrimethylsilane (0.03 mL) is added. After 30 min, NaI (165 mg, 1.1 mmol) is added followed by 2-cyanobenzyl bromide (216 mg, 1.1 mmol) and the mixture is stirred at RT for 30 min. To this mixture is added tri-o-tolylphosphine (33.5 mg) and Pd2(dba)3 (20.2 mg) followed by the dropwise addition of a solution of 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one (400 mg, 0.74 mmol) in DMF (10 mL). The reaction mixture is stirred at RT for 18 h and then diluted with EtOAc and filtered through Celite. The filtrate is washed with 0.1N HCl and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue purified by column chromatography using a gradient of 0-10% EtOAc/hexane as eluent to give the title compound.

reactant | NaI | 1.1 mmol, 165 mg | [Na+].[I-]
reactant | 2-cyanobenzyl bromide | 1.1 mmol, 216 mg | C(#N)C1=C(CBr)C=CC=C1 | C8H6BrN
reactant | tri-o-tolylphosphine | 33.5 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | 0.74 mmol, 400 mg | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc | 3.69 mmol, 240 mg | [Zn] | Zn
catalyst | Pd2(dba)3 | 20.2 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-benzyl}-benzonitrile | C(C1=CC=CC=C1)OC=1C=C(CC2=C(C#N)C=CC=C2)C=CC1N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O | C28H31N3O4SSi
